US07943619B2
Cyclopropanecarboxylic acid [6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-amide
As described for example 18, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine (200 mg, 0.7 mmol) was converted, using cyclopropanecarbonyl chloride instead of methoxyacetyl chloride, to the title compound (185 mg, 75%) which was obtained as a white solid. MS: m/e=351.3 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine | 0.7 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)N | C15H14N4O2
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | Cyclopropanecarboxylic acid [6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-amide | 185 mg, 75% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)NC(=O)C1CC1 | C19H18N4O3
